Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Chlorhexadine / Cephalosporins
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with a history of ischemic cardiomyopathy (ejection
fraction ___, CAD s/p CABG, hx of ventricular tachycardia,
ICD currently removed because of infection, hx CVA, peripheral
artery disease, atrial fibrillation (on apixaban, last dose
___ p.m.), type 2 diabetes, ESRD on HD, recent ascites of
unknown etiology (pt reports previous para, no records) and
bilateral BKA's who spends most of his time in a wheelchair but
is actively rehabbing his lower extremities with prostheses
presents with right hip pain after a fall from his wheelchair.
Radiographs of the right hip demonstrate a valgus impacted right
femoral neck fracture. 
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes Type II
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CABG: 5-vessel in ___
- NSTEMI treated medically circa ___
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: ___ single chamber dual coil ICD (per ADH
notes); batteries not working and currently infected on this
admission
3. OTHER PAST MEDICAL HISTORY
- AF 
- Ischemic cardiomyopathy (EF 15%)
- PAD s/p multiple bypasses and bilateral BKA
- Chronic pain syndrome
- Nocturia
- Peripheral neuropathy
- CKD on HD (___)
- Cardioembolic stroke (L hemiplegia, ___ Neurology)
- L atrial appendage clot 
- Ventricular tachycardia
- Hx rhabdomyolysis
- reported history of HIT but heparin-dependent abx ___ neg

SURGICAL HISTORY
L fem-peroneal bypass ___: LLE angiogram, L BK
___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___,
R pop-DP bypass, ___ toe amputation ___ (___ 
___, Vascular surgeon Dr ___, RLE hematoma
evacuation ___ (___), bypass graft explantation,
tonsillectomy, Debridement ankle infection ___ Revision right
ankle ligament reconstruction with Achilles tendon allograft
___, 5V CABG ___. L ___ ___. R BKA 
(___).

 
Social History:
___
Family History:
positive for multiple members w/ CAD, DM, stroke
 
Physical Exam:
ADMISSION PHYSICAL
==================
Vitals:  reviewed in eflowsheets - af, hemodynamically stable,
and on RA
General: AOx3, no acute distress, somnolent but answers 
questions
promptly and appropriately
HEENT: Sclerae anicteric, pupils equally round, MMM, oropharynx
clear
Neck: supple, JVP at earlobe at 30 degrees 
CV: Irregularly irregular, normal rate, S1/S2, no m/r/g  
Lungs: CTAB, no wheezes, rales, or rhonchi  
GI: distended with bulging flanks, soft, non-tender, liver and
spleen not palpable
Extremities: s/p BKA bilaterally. Ext are warm, well perfused; 
no
clubbing, cyanosis or edema  
Neuro: Face symmetric, no dysarthria
Skin: No rash or lesion  

DISCHARGE PHYSICAL
==================
General: AOx3 no acute distress  
HEENT: Sclerae anicteric, MMM
Neck: JVP 16 cm
CV: RRR, ___ systolic murmur at apex
Lungs: CTAB, no wheezes, crackles, or rhonchi  
GI: Mildly distended, firm, mildly tender, normoactive BS
Extremities: Warm, well perfused, bilateral BKAs, no edema in
extremities, trace edema in flanks
Skin: No rashes
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:55AM BLOOD WBC-5.1 RBC-4.39* Hgb-11.7* Hct-40.1 
MCV-91 MCH-26.7 MCHC-29.2* RDW-16.0* RDWSD-53.1* Plt Ct-74*
___ 01:55AM BLOOD Neuts-62.1 ___ Monos-9.6 Eos-4.7 
Baso-1.0 Im ___ AbsNeut-3.19 AbsLymp-1.15* AbsMono-0.49 
AbsEos-0.24 AbsBaso-0.05
___ 01:59AM BLOOD ___ PTT-29.5 ___
___ 01:55AM BLOOD Glucose-149* UreaN-25* Creat-3.3*# Na-139 
K-4.8 Cl-99 HCO3-25 AnGap-15
___ 01:55AM BLOOD ALT-7 AST-26 AlkPhos-159* TotBili-1.5
___ 01:55AM BLOOD Albumin-3.5
___ 01:22PM BLOOD Calcium-8.8 Phos-4.2 Mg-1.9

PERTINENT LABS
==============
___ 01:22PM BLOOD proBNP-GREATER TH
___ 06:44AM BLOOD calTIBC-211* Ferritn-395 TRF-162*

MICRO
=====
None

IMAGING
=======
X Ray Right Hip ___
There is an impacted fracture of the subcapital right proximal 
femur 
with valgus angulation of the fracture apex. 

CXR ___. Linear opacities in bilateral lower lobes likely represent 
atelectasis. 
2. Prominent cardiac silhouette is likely exaggerated by low 
lung volumes. 
3. No pneumothorax or fracture. 

CT Head w/o Contrast ___. Study degraded by motion. 
2. No acute intracranial abnormality.  Please note MRI of the 
brain is more sensitive for the detection of acute infarct. 
3. Within limits of study, no definite evidence of acute 
intracranial 
hemorrhage or fracture. 
4. Left temporal probable chronic infarct.  Right cerebellar 
question 
additional chronic infarct versus arachnoid cyst. 
5.  Paranasal sinus disease and minimal nonspecific right 
mastoid fluid, as described. 

RUQUS ___. Distention of the IVC and hepatic veins, few periportal 
echoes with a small to moderate amount of perihepatic ascites, 
may relate to passive cardiac congestion. 
2. Although there are no Findings of cirrhosis, there is 
borderline distention of the Portal vein, and persistent 
splenomegaly which may be seen with Portal hypertension and/or 
altered hemodynamics. 
3. Cholelithiasis without acute cholecystitis.  There is new 
mild-to-moderate dilation of the common hepatic duct and 
pancreatic duct, could be secondary to choledocholithiasis in 
the acute setting, and suggest ERCP or MRCP for further 
evaluation, and to exclude a periampullary/pancreatic mass. 

DISCHARGE LABS
==============
___ 06:29AM BLOOD WBC-3.5* RBC-3.99* Hgb-10.6* Hct-35.9* 
MCV-90 MCH-26.6 MCHC-29.5* RDW-16.0* RDWSD-52.4* Plt Ct-64*
___ 06:29AM BLOOD Neuts-57.6 ___ Monos-11.6 Eos-6.2 
Baso-1.1* Im ___ AbsNeut-2.04 AbsLymp-0.81* AbsMono-0.41 
AbsEos-0.22 AbsBaso-0.04
___ 06:29AM BLOOD ___ PTT-41.9* ___
___ 06:29AM BLOOD Glucose-111* UreaN-19 Creat-2.6* Na-141 
K-3.8 Cl-99 HCO3-25 AnGap-17
___ 06:29AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.9
 
Brief Hospital Course:
TRANSITIONAL ISSUES
===================
[ ] Discharge Weight: 172 lbs
[ ] Discharge Cr: 2.6

[ ] Outpatient dialysis unit: ___, Outpatient 
nephrologist: ___ MD

[ ] Recommend repeat CBC, chem-10 in 2 days to monitor for 
stability of K, Hgb, platelets
[ ] Ensure patient is up to date with all preventative 
vaccinations (annual flu, PPSV 23, Tdap)
[ ] Recommend outpatient fibroscan to evaluate for liver 
fibrosis, further evaluation of ascites
[ ] Consider outpatient hematology evaluation for chronic 
thrombocytopenia
[ ] Ensure patient has close PCP ___ after rehab discharge
[ ] Ensure co-ordination of outpatient dialysis and close 
___ with outpatient nephrologist
[ ] Ensure co-ordination with vascular surgeon Dr. ___ for 
AVF surgery (was originally scheduled for ___, his office was 
contacted prior to discharge on ___ and informed) ___ 
___
[ ] RUQUS with cholelithiasis without acute cholecystitis, new 
mild-to-moderate dilation of the common hepatic duct and 
pancreatic duct. Consider outpatient ERCP/MRCP to evaluate for 
periampullary/pancreatic mass - will need co-ordination with 
dialysis
[ ] Consider initiation of spironolactone as outpatient with 
close monitoring of potassium
[ ] Patient will need EP ___ and evaluation for ICD 
re-placement (first ICD removed in setting of endocarditis, lead 
vegetation)

Mr. ___ is a ___ male with a ischemic cardiomyopathy 
(ejection fraction ___, CAD s/p CABG, hx of ventricular 
tachycardia (ICD currently removed because of infection), hx 
CVA, peripheral artery disease, atrial fibrillation on apixaban, 
type 2 diabetes, ESRD on HD, recent ascites of unknown etiology 
and bilateral BKA's presenting s/p fall with valgus impacted 
right femoral neck fracture, transferred to heart failure 
service for cardiac optimization, now ready for discharge to 
rehab.
 
# CORONARIES: unknown 
# PUMP: 15%  
# RHYTHM: afib  

ACTIVE ISSUES
=============
# Ischemic cardiomyopathy
# Acute on chronic HFrEF EF 15%
Reports subacute worsening DOE and orthopnea with acute 
worsening in past 2 weeks. Led to patient sleeping in wheelchair 
and having a fall. Volume status primarily managed at HD but 
home furosemide 80mg was changed to torsemide 100mg on non-HD 
days. For afterload, continued lisinopril 5mg. Spironolactone 
should be considered as outpatient management with close 
monitoring of potassium. Patient was continued on metoprolol but 
dose was consolidated to succinate 50mg daily. Patient will 
require regular EP ___ for consideration of ICD 
replacement. First device was explanted due to line 
vegetation/endocarditis.

# Right femoral neck fracture
Seen by ortho service with plan to trial non-operative measures 
given medical co-morbidities, limited level of activity (s/p b/l 
BKAs) and fracture stability. Plan for ___ with ___ 
___ (___) for repeat right hip x-rays (or patient can 
have x rays performed at ___ and have them sent to Dr. ___
Activity: touchdown weightbearing on the right side

# Ascites
Small-to-moderate perihepatic ascites on ultrasound, likely 
cardiac in origin, consider fibroscan as outpatient to evaluate 
for liver disease. 

# Dilated biliary ducts
RUQUS with cholelithiasis without acute cholecystitis, new 
mild-to-moderate dilation of the common hepatic duct and 
pancreatic duct. Consider outpatient ERCP/MRCP to evaluate for 
periampullary/pancreatic mass while coordinating with dialysis.

# AFib, CHADsVASC 6
On apixaban for anticoagulation with history of left atrial 
appendage clot and cardioembolic stroke with L hemiplegia. 
Continued apixaban 5mg BID and home metoprolol tartrate 25 mg PO 
BID was converted to metoprolol XL 50mg daily. 

# CAD s/p CABG
No chest pain and or EKG changes. Continued home aspirin 81mg 
daily and atorvastatin 80mg PO daily.

# ESRD on HD
Continued on dialysis ___ and following by nephrology. 
Continued sevelamer. Home furosemide 80 mg PO on non-dialysis 
days was switched to torsemide 100mg on non-HD days.  

CHRONIC ISSUES
==============
# Chronic thrombocytopenia
___ be due to sequestration in setting of splenomegaly seen on 
RUQUS. recommend outpatient fibroscan for further evaluation. 
Consider hematology ___ for further workup.

# T2DM
Held home glimepiride 1mg PO daily and started on SSI. Patient 
not on long acting insulin.

# Chronic back pain
Continued home oxycodone 20mg TID

# Depression/anxiety
Continued home bupropion, hydroxyzine 25mg PO TID, aripiprazole 
5mg PO daily, sertraline 150mg PO daily

# GERD
Continued omeprazole 40 mg PO BID 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 5 mg PO ONE TABLET DAILY. 
2. Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  
3. Atorvastatin 80 mg PO ONE TABLET DAILY. 
4. BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY. 
5. Sertraline 150 mg PO ONCE 
6. Furosemide 80 mg PO 4X/WEEK (___) 
7. glimepiride 1 mg oral ONE TABLET DAILY. 
8. OxyCODONE (Immediate Release) 20 mg PO TID 
9. Apixaban 5 mg PO BID 
10. Omeprazole 40 mg PO BID 
11. Metoprolol Tartrate 25 mg PO BID 
12. Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Lisinopril 5 mg PO DAILY  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Torsemide 100 mg PO 4X/WEEK (___)  
5.  Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
6.  Apixaban 5 mg PO BID  
7.  ARIPiprazole 5 mg PO ONE TABLET DAILY.  
8.  Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  
 
9.  Atorvastatin 80 mg PO ONE TABLET DAILY.  
10.  BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY.  
11.  glimepiride 1 mg oral ONE TABLET DAILY.  
12.  Omeprazole 40 mg PO BID  
13.  OxyCODONE (Immediate Release) 20 mg PO TID 
RX *oxycodone 20 mg 1 tablet(s) by mouth three times a day Disp 
#*6 Tablet Refills:*0 
14.  Sertraline 150 mg PO ONCE Duration: 1 Dose  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
=================
Ischemic cardiomyopathy
Acute on chronic HFrEF EF 15%
Right femoral neck fracture
AFib
Ascites
Dilated biliary ducts
ESRD on HD

Secondary Diagnoses
===================
CAD s/p CABG
Chronic thrombocytopenia
T2DM
Depression
Anxiety
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had a fall and 
fractured your femur 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were seen by the orthopedic surgeons who felt that they 
would not operate right away and see again in clinic in 1 week 
for repeat x-rays
- Were transferred to the heart failure service and were started 
a new medications to help your heart
- You received dialysis per your outpatient schedule

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your doctor if your weight 
goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 172 lbs. You should use this as your 
baseline after you leave the hospital.  

We wish you the best!

Your ___ Care Team 
 
Followup Instructions:
___